US06200998B1
Step A: Preparation of 4-(4-bromobutoxy)-3-propylphenyl phenyl ether
A solution of 4-phenoxy-2-propylphenol (25.0 g, 0.11 mol), 1,4-dibromobutane (70.99 g, 0.33 mol) and cesium carbonate (39.28 g, 0.12 mol) in dry DMF (250 mL) was stirred at room temperature overnight. The reaction mixture was partitioned between ethyl acetate and 0.2N HCl. The organic layer was washed twice with water, then dried over sodium sulfate. The organic layer was filtered and evaporated to an oil which was chromatographed over silica gel with methylene chloride/hexane (1:1) to afford the title compound.

reactant | 4-phenoxy-2-propylphenol | 0.11 mol, 25.0 g | O(C1=CC=CC=C1)C1=CC(=C(C=C1)O)CCC | C15H16O2
reactant | 1,4-dibromobutane | 0.33 mol, 70.99 g | BrCCCCBr | C4H8Br2
reactant | cesium carbonate | 0.12 mol, 39.28 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | 4-(4-bromobutoxy)-3-propylphenyl phenyl ether | C1(=CC=CC=C1)OC1=CC(=C(C=C1)OCCCCBr)CCC | C19H23BrO2
